US05180741
Stage A: 4-(2-propenyl)-1-indanone
15 g of 4-bromo-1-indanone, 24 ml of tributyl allyl stannane, 150 ml of dimethylformamide, 0.82 g of tetrakis triphenyl phosphine palladium and 7.89 g of triethylamine are taken to 120° C. for one hour. After cooling to 20° C., the reaction mixture is poured over 300 ml of an aqueous solution of potassium fluoride, agitated, and filtered on celite; the filtrate is extracted with isopropyl ether. The insoluble part is taken up with ethyl acetate and filtered on celite. The reunited organic phases are washed with water saturated with sodium chloride, dried and brought to dryness under reduced pressure. The residue is chromatographed on silica with hexane-ethyl acetate (9-1) and 11.84 g of expected product is recovered.

reactant | 4-bromo-1-indanone | 15 g | BrC1=C2CCC(C2=CC=C1)=O | C9H7BrO
reactant | tributyl allyl stannane | 24 ml | C(CCC)[Sn](CC=C)(CCCC)CCCC
reactant | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
reactant | potassium fluoride | [F-].[K+]
solvent | triethylamine | 7.89 g | C(C)N(CC)CC | C6H15N
product | 4-(2-propenyl)-1-indanone | C(C=C)C1=C2CCC(C2=CC=C1)=O | C12H12O
